US06503899B2
A mixture of 3-benzoyl-9-hydroxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.306 g, 1.0 mmol), 3-methyl-2-butenal (0.11 mL, 1.1 mmol), phenylboronic acid (0.134 g, 1.1 mmol) and glacial acetic acid (5.0 mL) in anhydrous toluene (37.0 mL) was refluxed for 3 hours under nitrogen in an apparatus fitted with a Dean-Stark trap. After cooling down to room temperature, the mixture was concentrated in vacuo to dryness, the residue was partitioned between water (30.0 mL) and dichloromethane (30.0 mL). The aqueous layer was extracted with dichloromethane (2×30.0 mL). The combined dichloromethane solution was washed with water and NaHCO3 solution successfully, dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography (EtOAc:hexane, 1:1) to give 0.128 g (34%) of 10-benzoyl-3,3-dimethyl-7,8,9,10,11,12-hexahydro-3H-azepino[4,5-b]pyrano[3,2-e]indole as a light yellow solid: 1H NMR (300 MHz, CDCl3) δ 7.99-7.82, 7.35, 6.94-6.89, 6.76, 6.58, 5.57-5.46, 4.02-3.92, 3.64-3.56, 3.29, 3.05-2.99, 2.78, 1.38, 1.34; MS (ESI+) m/z 373 (M++H).

reactant | 3-benzoyl-9-hydroxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.0 mmol, 0.306 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)O | C19H18N2O2
reactant | 3-methyl-2-butenal | 1.1 mmol, 0.11 mL | CC(=CC=O)C | C5H8O
reactant | phenylboronic acid | 1.1 mmol, 0.134 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 37.0 mL | C1(=CC=CC=C1)C | C7H8
product | 10-benzoyl-3,3-dimethyl-7,8,9,10,11,12-hexahydro-3H-azepino[4,5-b]pyrano[3,2-e]indole | 0.128 g, 34% | C(C1=CC=CC=C1)(=O)N1CCC=2NC3=CC=C4C(=C3C2CC1)C=CC(O4)(C)C | C24H24N2O2
